US04298739
2.5 Grams of 6-(3-carboxypropoxy)carbostyril is suspended in 200 ml of chloroform, followed by addition of 1.5 ml of triethylamine, and then 1.2 g of thionyl chloride is added dropwise to the solution under agitation while maintaining the internal temperature at 0° to 20° C. After this addition, the mixture is agitated at the same temperature for 1 hour and then added dropwise with 2 ml of N-methylcyclohexylamine, followed by additional 3-hour agitation at room temperature. The reaction solution is washed well with a 5% aqueous K2CO3 solution, then further washed with water and diluted hydrochloric acid and then dried with anhydrous Na2SO4. After removing the solvent by distillation, the residue is refined by silica gel column chromatography (silica gel: Wakogel C-200; eluent: 10:1 chloroform/methanol (V/V)) and then recrystallized from chloroform-ethanol to obtain 0.4 g of 6-[3-(N-methyl-N-cyclohexylaminocarbonyl)propoxy]-carbostyril with melting point of 184.5°-186° C.

reactant | 6-(3-carboxypropoxy)carbostyril | C(=O)(O)CCCOC=1C=C2C=CC(NC2=CC1)=O | C13H13NO4
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 1.2 g | S(=O)(Cl)Cl | Cl2OS
reactant | N-methylcyclohexylamine | 2 ml | CNC1CCCCC1 | C7H15N
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-[3-(N-methyl-N-cyclohexylaminocarbonyl)propoxy]-carbostyril | 0.4 g | CN(C(=O)CCCOC=1C=C2C=CC(NC2=CC1)=O)C1CCCCC1 | C20H26N2O3
